US05739388
The procedure as described in Example 1 is followed, but only 9 g of a mixture of various aliphatic trialkylamines each having 6 to 14 carbon atoms in the alkyl radical (Hostarex A 327; a commercial product of Hoechst AG) and 518 g of an aqueous solution which contains 29.8 g (0.126 mol) of 4-hydroxy-3,5,6-trifluorophthalic acid in the form of corresponding alkali metal salts are used and, with addition of in total 158.3 g of 30% strength aqueous hydrochloric acid, likewise in 6 hours, 23.25 g (95.9% of theory) of 3-hydroxy-2,4,5-trifluorobenzoic acid are obtained.

reactant | 4-hydroxy-3,5,6-trifluorophthalic acid | 0.126 mol, 29.8 g | OC=1C(=C(C(C(=O)O)=C(C1F)F)C(=O)O)F | C8H3F3O5
reactant | hydrochloric acid | Cl | ClH
product | 3-hydroxy-2,4,5-trifluorobenzoic acid | 23.25 g, 95.9% | OC=1C(=C(C(=O)O)C=C(C1F)F)F | C7H3F3O3
